US05998459
2-Bromo-2',5'-difluoropropiophenone
To a solution of 2',5'-difluoropropiophenone (2.12 g) in diethyl ether (20 ml) under ice-cooling was added bromine dropwise, and the mixture was stirred at room temperature overnight. To this reaction mixture was added ice and the diethyl ether layer was separated, followed by washing with water and saturated aqueous solution of sodium hydrogen carbonate in that order and dried over anhydrous magnesium sulfate (MgSO4). The either layer was concentrated under reduced pressure to provide the title compound.

reactant | 2',5'-difluoropropiophenone | 2.12 g | FC1=C(C=C(C=C1)F)C(CC)=O | C9H8F2O
reactant | bromine | BrBr | Br2
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 2-Bromo-2',5'-difluoropropiophenone | BrC(C(=O)C1=C(C=CC(=C1)F)F)C | C9H7BrF2O
